US07148234B2
STEP 1. 2-[(4-Methyl-2-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 Example 45 from 4-methyl-2-nitroaniline and 4-iodophenylethyl alcohol.

reactant | 4-methyl-2-nitroaniline | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | 4-iodophenylethyl alcohol | IC1=CC=C(C=C1)CCO | C8H9IO
product | 2-[(4-Methyl-2-nitroanilino)phenyl]ethanol | CC1=CC(=C(NC2=C(C=CC=C2)CCO)C=C1)[N+](=O)[O-] | C15H16N2O3
